US09255110B2
A mixture of 2,5-dichloronitrobenzene (0.7 g), 4-piperidinemethanol (0.6 g) and potassium carbonate (1 g) in N,N-dimethylformamide (10 mL) was heated at 80° C. for 1 hour. The reaction mixture was cooled, diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (DCM/Acetone, 90/10) to afford 0.8 g of [1-(4-chloro-2-nitro-phenyl)-piperidin-4-yl]-methanol.

reactant | 2,5-dichloronitrobenzene | 0.7 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 4-piperidinemethanol | 0.6 g | N1CCC(CC1)CO | C6H13NO
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [1-(4-chloro-2-nitro-phenyl)-piperidin-4-yl]-methanol | 0.8 g | ClC1=CC(=C(C=C1)N1CCC(CC1)CO)[N+](=O)[O-] | C12H15ClN2O3
